US07547691B2
To 4-(2-cyano-1-hydroxyethyl)-4-methylpiperidine-1-carboxylic acid tert-butyl ester (4.24 g, 15.8 mmol) and pyridine (3.07 mL, 39.5 mmol) dissolved in dichloromethane (45 mL) at 0° C. is added methanesulfonyl chloride (3.45 mL, 42.6 mmol). After 1 hour, the reaction is not complete and is warmed to room temperature. After 18 hours at room temperature 1 equivalent of pyridine and 1 equivalent of methanesulfonyl chloride is added and stirred for 4 hours. The reaction mixture is diluted with EtOAc and washed several times with saturated NaHCO3. The organic layer is dried over Na2SO4, filtered and concentrated to give crude 4-(2-cyano-1-methanesulfonyloxy-ethyl)-4-methylpiperidine-1-carboxylic acid tert-butyl ester. Assuming 100% yield, 4-(2-cyano-1-methanesulfonyloxyethyl)-4-methylpiperidine-1-carboxylic acid tert-butyl ester (5.47 g, 15.8 mmol) and triethylamine (11.0 mL, 79 mmol) are dissolved in MeOH (60 mL) and heated at 70° C. for 1 hour and concentrated. The residue is dissolved in EtOAc and washed with water, then concentrated and chromatographed using 100% dichloromethane to give cis/trans-4-(2-cyanovinyl)-4-methylpiperidine-1-carboxylic acid tert-butyl ester (3.93 g, 99% yield) as a clear oil.

reactant | 4-(2-cyano-1-methanesulfonyloxyethyl)-4-methylpiperidine-1-carboxylic acid tert-butyl ester | 15.8 mmol, 5.47 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(C)C(CC#N)OS(=O)(=O)C | C15H26N2O5S
reactant | triethylamine | 79 mmol, 11.0 mL | C(C)N(CC)CC | C6H15N
solvent | MeOH | 60 mL | CO | CH4O
product | trans-4-(2-cyanovinyl)-4-methylpiperidine-1-carboxylic acid tert-butyl ester | 3.93 g, 99% yield | C(C)(C)(C)OC(=O)N1CCC(CC1)(C)\C=C\C#N | C14H22N2O2
